US07332499B2
Triethylamine (2.87 g, 28.36 mmol) was added to a solution of 3-chlorobenzene-1,2-diol (1.025 g, 7.09 mmol) in CH2Cl2 (20 mL). This was cooled to −78° C. and trifluoromethanesulfonic anhydride (4.00 g, 14.18 mmol) was added and the reaction was allowed to warm to room temperature. After 1 hour, the reaction was quenched with a saturated aqueous solution of sodium bicarbonate. Extracted with CH2Cl2. The organic extract was dried with sodium sulfate, filtered and concentrated under reduced pressure to an oil that was subsequently adsorbed onto silica gel. This was purified by flash chromatography, eluting with 10% ethyl acetate/hexanes to yield 2-chloro-6-{[(trifluoromethyl)sulfonyl]oxy}phenyl trifluoromethanesulfonate as an oil. 1H NMR (400 MHz, (CD3)2SO) δ 7.98 (d, J=8.4 Hz, 1H), 7.90 (d, J=8.4 Hz, 1H), 7.76 (t, J=8.4 Hz, 1H).

reactant | Triethylamine | 28.36 mmol, 2.87 g | C(C)N(CC)CC | C6H15N
reactant | 3-chlorobenzene-1,2-diol | 7.09 mmol, 1.025 g | ClC1=C(C(=CC=C1)O)O | C6H5ClO2
reactant | trifluoromethanesulfonic anhydride | 14.18 mmol, 4.00 g | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
solvent | CH2Cl2 | 20 mL | C(Cl)Cl | CH2Cl2
product | 2-chloro-6-{[(trifluoromethyl)sulfonyl]oxy}phenyl trifluoromethanesulfonate | FC(S(=O)(=O)OC1=C(C=CC=C1OS(=O)(=O)C(F)(F)F)Cl)(F)F | C8H3ClF6O6S2
